US07148246B2
cis-3-[2-(4-Fluorophenyl )-5-methyloxazol-4-yl methoxy]cyclohexyl 3,5-dinitrobenzoate
0.5 g of 3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol is dissolved in 3 ml of pyridine and, at 0° C., 0.6 g of 3,5-dinitrobenzoyl chloride is added. The reaction mixture is then heated at 50° C. for 10 minutes. The reaction is checked (LCMS) showing the formation of the desired product, in addition to unreacted alcohol cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol. After a further 10 minutes of stirring at room temperature, the reaction is terminated by addition of 5 ml of concentrated hydrochloric acid, and the crude product is filtered off with suction, taken up in ethyl acetate, washed with saturated sodium bicarbonate and sodium chloride solution and dried over magnesium sulfate. Purification by HPLC gives 0.15 g of the compound cis-3-[2-(4-fluorophenyl )-5-methyloxazol4-ylmethoxy]cyclohexyl 3,5-dinitrobenzoate as yellow solid.

reactant | 3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol | 0.5 g | FC1=CC=C(C=C1)C=1OC(=C(N1)COC1CC(CCC1)O)C | C17H20FNO3
reactant | 3,5-dinitrobenzoyl chloride | 0.6 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | cis-3-[2-(4-Fluorophenyl )-5-methyloxazol-4-yl methoxy]cyclohexyl 3,5-dinitrobenzoate | [N+](=O)([O-])C=1C=C(C(=O)O[C@@H]2C[C@@H](CCC2)OCC=2N=C(OC2C)C2=CC=C(C=C2)F)C=C(C1)[N+](=O)[O-] | C24H22FN3O8
